US07101899B1
2-(2-amino-4-pyridyl)-1-(4-methoxyphenyl)ethanone
2N-hydrochloric acid (30 mL) was added to 1-(4-methoxyphenyl)-2-(2-tert-butoxycarbonylamino-4-pyridyl)ethanone (6.1 g, 18 mmol) and the mixture was stirred at 100° C. for 2 hours. The reaction mixture was cooled to room temperature and, thereafter, 8N-aqueous sodium hydroxide (10 mL) was added. The resulting crude crystals were filtered and washed with water. The crude crystals were recrystallized from tetrahydrofuran-hexane to obtain 4.0 g of the title compound (16 mmol, yield 92%).

reactant | hydrochloric acid | 30 mL | Cl | ClH
reactant | 1-(4-methoxyphenyl)-2-(2-tert-butoxycarbonylamino-4-pyridyl)ethanone | 18 mmol, 6.1 g | COC1=CC=C(C=C1)C(CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C19H22N2O4
solvent | sodium hydroxide | 10 mL | [OH-].[Na+]
product | 2-(2-amino-4-pyridyl)-1-(4-methoxyphenyl)ethanone | 16 mmol, 4.0 g, yield 92% | NC1=NC=CC(=C1)CC(=O)C1=CC=C(C=C1)OC | C14H14N2O2
